US07820662B2
2-[(3-Chloro-pyrazin-2-yl)-(2-phenyl-quinolin-7-yl)-methyl]-isoindole-1,3-dione
To a suspension of (3-chloropyrazin-2-yl)-(2-phenylquinolin-7-yl)-methanol (1.215 g, 3.49 mmol), phthalimide (566 mg, 3.85 mmol), and PS-PPh3 (loading 2.12 mmol/g; 3.29 g, 6.97 mmol) in dry THF (40 mL), cooled by ice/water, is added DIAD (830 μL, 852 mg, 4.22 mmol). The cooling bath is removed and the flask is vortexed at rt for 1d. More phthalimide (50 mg, 0.34 mmol), PS-PPh3 (300 mg, 0.636 mmol), and DIAD (80 μL, 82 mg, 0.41 mmol) are added, and vortexing is continued for 2d. The resin is filtered off on a glass frit (porosity M) and washed with CH2Cl2. The combined filtrates and washings are concentrated in vacuo and chromatographed on silica gel [Jones Flashmaster, 50 g/150 mL cartridge, eluting with CH2Cl2 (1-22)→2% EtOAc in CH2Cl2 (23-38)→5% (39-61)], mixed fractions are combined and chromatographed again [50 g/150 mL cartridge, eluting with CH2Cl2 (1-22)→2% EtOAc in CH2Cl2 (23-33)→3% (34-55)→5% (5668)] to obtain the title compound as white foam. 1H NMR (CDCl3, 400 MHz) δ 7.14 (s, 1H), 7.43-7.55 (m, 3H), 7.72-7.79 (m, 3H), 7.82-7.90 (m, 4H), 8.09 (s, 1H), 8.09-8.14 (m, 2H), 8.22 (d, J=8.8 Hz, 111), 8.40 (d, J=2.4 Hz, 1H), 8.51 (d, J=2.4 Hz, 1H). MS (ES+): m/z 476.9/478.9 (100/38) [MH+]. HPLC: tR=3.5 min (MicromassZQ, nonpolar—5 min).

reactant | (3-chloropyrazin-2-yl)-(2-phenylquinolin-7-yl)-methanol | 3.49 mmol, 1.215 g | ClC=1C(=NC=CN1)C(O)C1=CC=C2C=CC(=NC2=C1)C1=CC=CC=C1 | C20H14ClN3O
reactant | phthalimide | 3.85 mmol, 566 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | PPh3 | 6.97 mmol, 3.29 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 4.22 mmol, 830 μL, 852 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | phthalimide | 0.34 mmol, 50 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | PPh3 | 0.636 mmol, 300 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 0.41 mmol, 80 μL, 82 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2-[(3-Chloro-pyrazin-2-yl)-(2-phenyl-quinolin-7-yl)-methyl]-isoindole-1,3-dione | ClC=1C(=NC=CN1)C(N1C(C2=CC=CC=C2C1=O)=O)C1=CC=C2C=CC(=NC2=C1)C1=CC=CC=C1 | C28H17ClN4O2
